US09403839B2
To a 100 mL rbf was added 3-cyano-4-fluoro-benzoic acid (2.6 g, 15.9 mmol), potassium carbonate (6.6 g, 47.6 mmol), and DMF (30 mL) and the reaction was allowed to stir for 10 minutes. Iodomethane (1.1 mL, 17.5 mmol) was added dropwise and the reaction was allowed to stir for 1 h. The reaction was complete by 1 cms. The reaction was quenched with brine and extracted with EtOAC. The organic layer was washed with brine 3 times and the organic layer was dried over sodium sulfate and evaporated. Methyl 3-cyano-4-fluoro-benzoate (2.5 g, 62%) was isolated as a white solid. ESI-MS m/z calc. 179.0, found 180.0 (M+1)+; Retention time: 1.15 minutes (3 min run).

reactant | 3-cyano-4-fluoro-benzoic acid | 15.9 mmol, 2.6 g | C(#N)C=1C=C(C(=O)O)C=CC1F | C8H4FNO2
reactant | potassium carbonate | 47.6 mmol, 6.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | Iodomethane | 17.5 mmol, 1.1 mL | IC | CH3I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | Methyl 3-cyano-4-fluoro-benzoate | 2.5 g, 62% | C(#N)C=1C=C(C(=O)OC)C=CC1F | C9H6FNO2
